US20010014691A1
Dimethyl(3-(3-(methylamino)propoxy)phenyl)amine
The crude (3-(3-chloropropoxy)phenyl)dimethylamine (4.06 g, 19.01 mmol) was dissolved in methanol (30 mL) and added to a 40 wt % aqueous solution of methylamine (75 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred at ambient temperature for 16 h, followed by heating at 87° C. (oil bath temperature) for 3 h. After cooling, the solution was concentrated by rotary evaporation to a lavender-brown semi-solid. Saturated NaCl solution (35 mL) was added. The mixture was acidified to pH 1 with 10% HCl solution and extracted with CHCl3 (5×30 mL) to remove impurities. The dark-brown aqueous layer was basified to pH 7 with 30% NaOH solution and extracted with ether (4×40 mL) to remove impurities. The brown aqueous layer was basified with 30% NaOH solution to pH 12 and extracted with ether (4×50 mL). The combined ether extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation, producing an oil. The product was dried briefly under high vacuum to afford 2.24 g (56.6%) of a dark-brown oil.

reactant | (3-(3-chloropropoxy)phenyl)dimethylamine | 19.01 mmol, 4.06 g | ClCCCOC=1C=C(C=CC1)N(C)C | C11H16ClNO
reactant | methylamine | 75 mL | CN | CH5N
solvent | methanol | 30 mL | CO | CH4O
product | Dimethyl(3-(3-(methylamino)propoxy)phenyl)amine | 2.24 g, 56.6% | CN(C1=CC(=CC=C1)OCCCNC)C | C12H20N2O
